* source CIRCUITRC
C_C1         N00200 N00193  10n  TC=0,0 
R_R1         0 N00200  1k TC=0,0 
V_Vi         N00193 0  
+PULSE 0V 1V 1ns 1ns 1ns 100us 200us
