* source PRACTICA1
V_Vee         0 VEE 15Vdc
R_R3         0 OUT  10k TC=0,0 
V_Vcc         VCC 0 15Vdc
R_R1         IN N00216  1k TC=0,0 
X_U1         0 N00216 VCC VEE OUT uA741
C_C1         N00216 OUT  10u  TC=0,0 
V_V1         IN 0  
+SIN 0 10V 2kHz 0 0 0
